US06265426B1
{3-[2-Difluoromethyl-5-(4-methoxy-phenyl)-2H-[1,2,4]triazol-3-yl]-benzyl}-dimethyl-amine;
Using 3-[2-difluoromethyl-5-(4-methoxy-phenyl)-2H-[1,2,4]triazol-3-yl]-benzaldehyde and dimethylamine the title compound was prepared as a white amorphous solid (83.4% yield), MS: m/e=359.168 (M+H+).

reactant | 3-[2-difluoromethyl-5-(4-methoxy-phenyl)-2H-[1,2,4]triazol-3-yl]-benzaldehyde | FC(N1N=C(N=C1C=1C=C(C=O)C=CC1)C1=CC=C(C=C1)OC)F | C17H13F2N3O2
reactant | dimethylamine | CNC | C2H7N
product | {3-[2-Difluoromethyl-5-(4-methoxy-phenyl)-2H-[1,2,4]triazol-3-yl]-benzyl}-dimethyl-amine | FC(N1N=C(N=C1C=1C=C(CN(C)C)C=CC1)C1=CC=C(C=C1)OC)F | C19H20F2N4O
